US07153851B2
(3R,4R)-1-Benzyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine (835 mg), sodium azide (381 mg), and N,N-dimethylformamide (12 mL) were mixed with one another and the mixture was stirred at 120° C. for 1 hour. Subsequently, the reaction mixture was concentrated under reduced pressure. To the resulting residue, water (10 mL) was added and the mixture was extracted with diethyl ether (2×30 mL). The diethyl ether extracts were combined and the combined extract was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate: methanol=20:1) to give 576 mg of (3R,4R)-3-azidomethyl-1-benzyl-4-hydroxypyrrolidine as a pale brown oil.

reactant | (3R,4R)-1-Benzyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine | 835 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)COS(=O)(=O)C)O | C13H19NO4S
reactant | sodium azide | 381 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | (3R,4R)-3-azidomethyl-1-benzyl-4-hydroxypyrrolidine | 576 mg | N(=[N+]=[N-])C[C@H]1CN(C[C@@H]1O)CC1=CC=CC=C1 | C12H16N4O
